2136-03-08 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2136-3-7**] 09:40 AM
 EKG - At [**2136-3-7**] 11:15 AM
   - Early afternoon had episode of BRBPR. Tachy to 130s with
   hypertension. Elevated PTT in setting of subQ heparin.  Surgery met
   with family and plan was is for medical management.
   - Got 2 units PRBC on [**3-7**] (10am, 12:30pm) and bolused 500cc.  Started
   briefly on nitro gtt for hypertension but dropped pressure to SBP of
   60s, stopped and over time returned to 110-120s/60s where he remained
   most of the night. HCT trended Q6 = ~29 at 9pm; 26 at 3am; getting 1
   unit more at 5am-7am (for total of 6 units since 6pm on [**3-6**])
   -1 episode of very limited BRBRP with clot overnight
   -Per family, Ok with pressors, ok with blood products.
   Allergies:
   Penicillins
   Unknown;
   Nsaids
   Unknown;
   Magnesium
   Unknown;
   Meperidine
   Unknown;
   Paroxetine
   Unknown;
   Famotidine
   Unknown;
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2136-3-7**] 11:35 AM
   Vancomycin - [**2136-3-7**] 01:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-3-8**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-3-8**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 89 (85 - 139) bpm
   BP: 109/51(66) {76/45(52) - 203/93(119)} mmHg
   RR: 23 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                 10,073 mL
                                                                    435 mL
   PO:
           TF:
   IVF:
                                                                  1,323 mL
                                                                    116 mL
   Blood products:
                                                                    750 mL
                                                                    319 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,073 mL
                                                                    435 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 2L
   SpO2: 98%
   ABG: 7.30/38/101/20/-6
   Physical Examination
   Peripheral Vascular: Right DP pulse palpable, left DP pulse
   dopplerable; right PT pulse dopplerable; left PT pulse not able to be
   assessed by Doppler due to patient position, not palpable. Warm LE,
   without edema.
   Neurologic: Alert, oriented to person. Appropriate, full sentences.
   HEENT: Mucous membranes moist
   CV: Regular rate and rhythm, no murmur/rub/gallop
   Pulm: Transmitted upper airway sounds (patient snoring), otherwise
   clear to auscultation
   Ab: Soft, non-tender, non-distended, bowel sounds present
   Right groin at site of femoral artery catheterization: no mass or
   ecchymosis present, no bleeding from site
   Labs / Radiology
   164 K/uL
   9.2 g/dL
   110 mg/dL
   5.1 mg/dL
   20 mEq/L
   4.4 mEq/L
   27 mg/dL
   112 mEq/L
   142 mEq/L
   26.1 %
   10.7 K/uL
        [image002.jpg]
                             [**2136-3-5**]  07:31 AM
                             [**2136-3-5**]  11:46 AM
                             [**2136-3-5**]  04:27 PM
                             [**2136-3-7**]  08:31 AM
                             [**2136-3-7**]  11:51 AM
                             [**2136-3-7**]  01:44 PM
                             [**2136-3-7**]  02:41 PM
                             [**2136-3-7**]  05:10 PM
                             [**2136-3-7**]  09:26 PM
                             [**2136-3-8**]  03:13 AM
   WBC
   14.2
   10.7
   Hct
   28.5
   27.4
   26.9
   23.5
   28.0
   33.0
   31.9
   29.6
   26.1
   Plt
   190
   164
   Cr
   5.1
   TropT
   0.19
   0.17
   TCO2
   19
   Glucose
   110
   Other labs: PT / PTT / INR:12.9/26.5/1.1, CK / CKMB /
   Troponin-T:31//0.17, ALT / AST:14/12, Alk Phos / T Bili:38/0.4,
   Fibrinogen:251 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:111
   IU/L, Ca++:7.6 mg/dL, Mg++:2.7 mg/dL, PO4:4.8 mg/dL
   Vanc [**3-7**] at 4:20am
 13.3; at 4/8 at 6am
 20.8
   Mixed venous gas
 pH 7.32; free Ca 1.16
   Micro: 4/5 blood cx
 coag neg staph; GPC in clusters
   [**3-5**], [**3-6**], [**3-7**] blood cx
 pending
   [**3-4**] Urine cx
 strep viridans >100K
   [**3-7**] CTA ab/pelvis: WET READ: CTA demonstrates intraluminal contrast
   extravasation in the cecum, localizing
   this as the likely site of bleeding. the wall of the cecum and
   ascending colon are thickened. additional wall thickening is seen
   involving the splenic flexure, descending and sigmoid colon, albeit
   exagerrated by underdistention. this is consistent with colitis, which
   may be infectious or ischemic given underlying atherosclerosis. there
   is diffuse atheroscrlotic involvement of the aorta and mesenteric
   vessels, though all appear patent. the SMV is patent. Abd/pelv: no
   acute abnormality involving the liver, gallbladder, spleen, pancreas or
   adrenals. s/p right nephrectomy. left kidney markedly atrophic. small
   bowel appears normal though note is made of a bowel contained in a
   right inguinal hernia without evidence of complciation.
   Assessment and Plan
   79 y/o M with history of ESRD on HD, RCC and prostate cancer who
   presents from nursing home with BRBPR, hematocrit drop, episode of and
   hypotension, now transferred back to MICU for recurrent BRBPR and
   hypotension, s/p IR procedure.
   .
   # GI BLEED: No active bleed at time of colonoscopy but found to have
   multiple areas of erythema and ulcerations; current bleed appears to
   localize to cecum. S/p IR embolization of area in the ascending colon.
   HCT post-procedure unchanged.  He has received a total of 6 units PRBCs
   since [**3-6**] at 6pm.
   - 2 large bore IV for access
   - active type and screen
   - serial HCT Q6hr
   - transfuse to HCT >26
   - protonix 40 mg IV BID
   - cont to hold plavix, aspirin
   - cont hold antihypertensives in setting of GIB; if needed for bp
   control will try esmolol gtt or nitro gtt, carefully
   - appreciate GI, IR, and surgery recs
   - Cipro IV in the setting of colitis seen on CTA
   - replete calcium
   .
   LEUKOCYTOSIS: Pt with GPC UTI (strep viridans) with 2/4 blood cx also
   growing GPC (coag neg staph); may have infectious colitis.  Afebrile in
   last 24 hours. (NB any fevers that do develop may be secondary to blood
   products). WBC trending down.
   - check c.diff  (ordered, not yet logged)
   - check stools studies (not yet ordered)
   - blood culture f/u
   - continue vancomycin per HD protocol (ID approval required)
   - cont empiric cipro IV, today day 5 of 7 (day 1 = [**3-4**])
   - consider starting flagyl if persistent diarrhea
   .
   ESRD on HD: Patient on M/W/F schedule with right fistula for access;
   last performed on Friday at Fresenius ([**Telephone/Fax (1) 14461**]).  Patient has
   received a large volume in the past 24 hours. Renal following.
   - Follow up final renal recs: per verbal report, renal not planning to
   dialyze today given still tachycardic, bleeding, tenuous.  Can do UF
   this afternoon if needed but at this point will plan to reassess
   tomorrow.
   - continue phosLo and calcium acetate
   .
   ELEVATED TROPONIN: Patient with [**Location (un) 1204**] risk factors of DM, HTN
   without anginal symptoms per history, without EKG changes, with
   elevated troponin on admission on [**2136-3-4**] but normal CK in the setting
   of ESRD. Most likely due to renal failure although also included in the
   differential are transient ischemia in the setting of hypotension or
   tachycardia.
   - cycle enzymes
   .
   HYPERTENSION
   - hold antihypertensives for now in setting of GIB
   .
   HYPERLIPIDEMIA
   - statin
   .
   GOUT
   - allopurinol
   .
   Dementia
   - Aricept, risperidone
   .
   # FEN: replete electrolytes (watch calcium given transfusions), regular
   diet (?change to renal diet)
   # Prophylaxis: pneumoboots, no subQ heparin given GIB, PPI
   # Access: IJ placed in IR, 18 and 16 gauge peripheral
   # Communication: [**Telephone/Fax (1) 14424**] patient's wife
   # Code: DNR/DNI (discussed with patient's HCP), blood products and
   pressors acceptable
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-3-7**] 09:40 AM
   18 Gauge - [**2136-3-7**] 09:40 AM
   20 Gauge - [**2136-3-7**] 09:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2136-03-09 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2136-3-8**] 03:03 PM
   - HD started in afternoon [**3-8**]; got  vanc dose with HD at 10pm
   - Q6h hct - transfused at 5am for 2am Hct of 26; post-transfusion lab
   at 10am was 28.4. Tachy, sbp in 90s, ordered for another unit (7^th
   since [**3-6**] at 6pm) at 4pm-7pm. 4pm Hct = 28.3, 10pm Hct = 26.9
   (post-transfusion). 3:46am Hct = 25.8.
   - Sensitivities added on for coag-neg staph blood culture
   - C. Diff negative
   - IR recs: pt not surgical candidate; if bleeding continues consider
   repeat colonoscopy for endoscopic treatment. If pt unstable, call IR
   for re-eval.
   - Paged GI; says no isolated source of bleeding, just diffuse oozing
   from 20 cm region throughout ulcerated region of cecum -- no endoscopic
   treatment of this possible. Other recs -- just supportive therapy.
   Allergies:
   Penicillins
   Unknown;
   Nsaids
   Unknown;
   Magnesium
   Unknown;
   Meperidine
   Unknown;
   Paroxetine
   Unknown;
   Famotidine
   Unknown;
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2136-3-8**] 10:25 AM
   Vancomycin - [**2136-3-8**] 10:15 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-3-9**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-3-9**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 76 (64 - 109) bpm
   BP: 135/51(72) {109/44(61) - 156/80(101)} mmHg
   RR: 17 (12 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (2 - 9)mmHg
   Total In:
                                                                  1,435 mL
                                                                     78 mL
   PO:
   TF:
   IVF:
                                                                    685 mL
                                                                     78 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,435 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: palpable DP pulses bilaterally, warm extremities,
   trace pitting edema
   CV: RRR, no murmur, rub, gallop
   Pulm: CTAB anteriorly with transmitted upper airway sounds
   Ab: Soft, NT, ND, BS+
   Neurologic: Sleeping
   Labs / Radiology
   111 K/uL
   9.7 g/dL
   83 mg/dL
   3.4 mg/dL
   30 mEq/L
   3.5 mEq/L
   14 mg/dL
   104 mEq/L
   139 mEq/L
   25.8 %
   8.1 K/uL
        [image002.jpg]
                             [**2136-3-7**]  11:51 AM
                             [**2136-3-7**]  01:44 PM
                             [**2136-3-7**]  02:41 PM
                             [**2136-3-7**]  05:10 PM
                             [**2136-3-7**]  09:26 PM
                             [**2136-3-8**]  03:13 AM
                             [**2136-3-8**]  09:54 AM
                             [**2136-3-8**]  03:44 PM
                             [**2136-3-8**]  09:37 PM
                             [**2136-3-9**]  03:47 AM
   WBC
   10.7
   8.1
   Hct
   28.0
   33.0
   31.9
   29.6
   26.1
   28.4
   28.3
   26.9
   25.8
   Plt
   164
   111
   Cr
   5.1
   3.4
   TropT
   0.17
   TCO2
   19
   Glucose
   110
   83
   Other labs: PT / PTT / INR:13.2/26.3/1.1, CK / CKMB /
   Troponin-T:31//0.17, ALT / AST:14/12, Alk Phos / T Bili:38/0.4,
   Fibrinogen:265 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:111
   IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL; adjusted Ca level
   = 7.4+(4-2.4)*.8 = 8.7
   Vanco dose at 10pm, trough 29.7 at 6am
   [**3-8**] C Diff negative
   [**3-5**] CONS blood culture ([**1-5**])
 sensitivities pending
   Assessment and Plan
   79 y/o M with history of ESRD on HD, RCC and prostate cancer who
   presents from nursing home with BRBPR, hematocrit drop, episode of and
   hypotension, now transferred back to MICU for recurrent BRBPR and
   hypotension, s/p IR procedure.
   .
   # GI BLEED: No active bleed at time of colonoscopy but found to have
   multiple areas of erythema and ulcerations; current bleed appears to
   localize to cecum. S/p IR embolization of area in the ascending colon.
   He has received a total of 7 units PRBCs since [**3-6**] at 6pm. Continues to
   bleed, although this morning one brown stool.
   - 2 large bore IV for access
   - active type and screen
   - serial HCT Q6hr
   - transfuse to HCT >26
   - protonix 40 mg IV BID
   - cont to hold plavix, aspirin
   - cont hold antihypertensives in setting of GIB; if needed for bp
   control will try esmolol gtt or nitro gtt, carefully
   - appreciate GI, IR, and surgery recs: no plan for surgery or endoscopy
   at moment, and if re-bleeds significantly will make IR aware
   - monitor CVP
   - Cipro IV in the setting of colitis seen on CTA of abdomen, day 1 =
   [**3-4**]
   - replete calcium prn
   - Re-check Hct 1800
   .
   LEUKOCYTOSIS: Pt with GPC UTI (strep viridans) with 2/4 blood cx
   growing GPC (coag neg staph); may have infectious colitis per CT.
   Afebrile in last 24 hours. (NB any fevers that do develop may be
   secondary to blood products). WBC trending down.
   - blood culture f/u  (currently being speciated)
   - continue vancomycin per HD protocol (ID approval required), day 1 =
   [**3-6**]
   - cont empiric cipro IV for possible colitis, today day 6 of 7 (day 1 =
   [**3-4**])
   - consider starting flagyl if persistent diarrhea though C diff
   negative X1
   - Re-check set of BCx
   - F/U 2^nd C. diff sample
   .
   ESRD on HD: Patient on M/W/F schedule with right fistula for access;
   last performed on Friday at Fresenius ([**Telephone/Fax (1) 14461**]).  Patient has
   received a large volume in the past 24 hours. Renal following. Most
   recent HD on [**3-8**].
   - Follow up final renal recs
   - continue phosLo and calcium acetate
   .
   ELEVATED TROPONIN: Patient with [**Location (un) 1204**] risk factors of DM, HTN
   without anginal symptoms per history, without EKG changes, with
   elevated troponin on admission on [**2136-3-4**] but normal CK in the setting
   of ESRD. Most likely due to renal failure although also included in the
   differential are transient ischemia in the setting of hypotension or
   tachycardia.
   - cycle enzymes if develops chest pain
   .
   THROMBOCYTOPENIA. New today, post dialysis/pRBC transfusion. Consider
   HIT, consumption, lab error/clumping.
   - Trend for now
   .
   HYPERTENSION
   - hold antihypertensives for now in setting of GIB
   .
   HYPERLIPIDEMIA
   - statin
   .
   GOUT
   - allopurinol
   .
   Dementia
   - Aricept, risperidone
   .
   # FEN: replete electrolytes (watch calcium given transfusions), regular
   diet
   # Prophylaxis: pneumoboots, no subQ heparin given GIB, PPI
   # Access: IJ placed in IR, 18 and 16 gauge peripheral
   # Communication: [**Telephone/Fax (1) 14424**] patient's wife
   # Code: DNR/DNI (discussed with patient's HCP), blood products and
   pressors acceptable but no surgery
   # Disposition: pending above
 consider call out to floor if stable Hct
   this evening and no more gross bleeding
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-3-7**] 09:40 AM
   18 Gauge - [**2136-3-7**] 09:40 AM
   20 Gauge - [**2136-3-7**] 09:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: